US07923450B2
a) [3-Bromo-1-(4-chloro-phenyl)-2-oxo-cyclohexyl]-acetonitrile
1-(4-Chloro-phenyl)-2-oxo-cyclohexyl-acetonitrile (100 mg, 0.40 mmol) was dissolved in chloroform (1 mL). To this solution bromine (67.7 mg, 0.42 mmol) in chloroform (0.5 mL) was added drop wise at −11° C. The reaction was stirred for 1½ hours at 5° C., then for 1 hours t room temperature and finally for 1 hour at 50° C. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel using dichloromethane as eluent to yield the title compound (104 mg, 79%) as colourless oil. NMR (CDCl3, 300 MHz): δ (ppm)=7.44 (d, 2H), 7.13 (d, 2H), 4.62 (dd, 1H), 2.99 (m, 2.80 (s, 2H), 2.58 (m, 1H), 2.14 (m, 1H), 1.92 (m, 3H).

reactant | 1-(4-Chloro-phenyl)-2-oxo-cyclohexyl-acetonitrile | 0.40 mmol, 100 mg | ClC1=CC=C(C=C1)C1(C(CCCC1)=O)CC#N | C14H14ClNO
reactant | bromine | 0.42 mmol, 67.7 mg | BrBr | Br2
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
product | [3-Bromo-1-(4-chloro-phenyl)-2-oxo-cyclohexyl]-acetonitrile | 104 mg, 79% | BrC1C(C(CCC1)(C1=CC=C(C=C1)Cl)CC#N)=O | C14H13BrClNO
